US06117293
Preparation of N-(3-hydroxypropyl)acrylamide (HPAA)
To a 250 mL, four-neck round bottom flask equipped with a mechanical stirrer, a thermometer, a 100 mL dropping funnel, and a nitrogen inlet/outlet, 30.0 g of 1-amino-3-propanol (0.4 mole), and 100 mL of acetonitrile were added. The mixture was cooled below 0° C. with an ice/water bath. To this solution, 18.1 g of freshly distilled acryloyl chloride (0.2 mole) in 50 mL of acetonitrile was added through the dropping funnel. The addition rate was controlled so that the reaction temperature was kept below 0° C. After the addition was finished and the agitation was turned off, the reaction solution separated into two liquid phases. The bottom layer viscous salt solution phase was discarded. To the top layer acetonitrile solution phase, 100 mL of deionized water was added. After removing all acetonitrile by vacuum distillation, the aqueous solution was passed through a mixed bed ion-exchange column packed with 20 g of Dowex MR-3C resin. A total of 76 grams of eluate was collected. The final solution has the following properties: HPLC and FT-IR analysis indicates there is no ester formation; HPAA concentration: 7.2% (wt/wt); pH=5.6 at 25° C; Conductivity=56.6 μS/cm at 25° C.; Viscosity=1.1 cPs at 25° C. The relative low yield of HPAA is due to the fact that HPAA is soluble in the salt phase. HPAA in the salt phase can be recovered by acetone extraction since HPAA is soluble in acetone, and the salt is insoluble.

reactant | 1-amino-3-propanol | 0.4 mole, 30.0 g | NCCCO | C3H9NO
reactant | acryloyl chloride | 0.2 mole | C(C=C)(=O)Cl | C3H3ClO
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | N-(3-hydroxypropyl)acrylamide | OCCCNC(C=C)=O | C6H11NO2
